* source NAND
M_MP2         N15051 N15495 N15022 N15022 IRF9140           
C_C6         0 UY  1n  TC=0,0 
U_UB         STIM(1,1)
+ $G_DPWR $G_DGND
+ N15746 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 2ms 1  
+ 3ms 0  
+ 6ms 1 
+ 8ms 0  
+ 9ms 1  
+ 11ms 0  
+ 13ms 1  
+ 16ms 0  
C_C2         0 N15495  1n  TC=0,0 
U_UA         STIM(1,1)
+ $G_DPWR $G_DGND
+ N15840 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 4ms 1  
+ 5ms 0  
+ 6ms 1 
+ 9ms 0  
+ 11ms 1  
+ 14ms 0  
+ 15ms 1  
+ 16ms 0  
R_R5         N15051 UY  10 TC=0,0 
V_V1         N15022 0 5V
M_MN1         N15767 N15797 0 0 IRF150           
C_C7         0 N15767  1n  TC=0,0 
M_MN2         N15051 N15753 N15767 N15767 IRF150           
R_R2         N15746 N15495  10 TC=0,0 
C_C5         0 N15051  1n  TC=0,0 
M_MP1         N19708 N14704 N15022 N15022 IRF9140           
R_R4         N15746 N15753  10 TC=0,0 
R_R1         N15840 N14704  10 TC=0,0 
C_C1         0 N14704  1n  TC=0,0 
C_C3         0 N15797  1n  TC=0,0 
C_C4         0 N15753  1n  TC=0,0 
R_R3         N15840 N15797  10 TC=0,0 
R_ROpen         N15051 N19708  10 TC=0,0 
